Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hand swelling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH BPH s/p TURP who presents with L hand swelling and
erythema concerning for cellulitis.

He was at home in ___ when he tripped two days ago and
hurt his L hand. Currently he is in ___ visiting family when
he noticed it was starting to become more red, swollen and
painful. He denies any fevers, chills, lightheadedness, nausea,
vomiting.

He presented to the ED for evaluation given worsening erythema
and swelling. In the ED a hand ___ was done which showed no
fracture. He was also having some L rib pain so had a CXR which
was inconclusive so he had a CT chest which did show a rib
fracture. Trauma was consulted and recommended supportive care.
He was given IV cefazolin for L hand cellulitis and admitted to
medicine for further care.

Upon arrival to the floor, he reports that he is overall feeling
well other than some mild pain in his hand.

 
Past Medical History:
BPH s/p TURP
 
Social History:
___
Family History:
___
 
Physical Exam:
PHYSICAL EXAM:
VITALS: reviewed in eflowsheets
GENERAL: Alert, NAD, appears younger than stated age, thin
HEENT: atraumatic, normocephalic, MMM, poor dentition
CARDIAC: RRR, no m/r/g
LUNGS: CTAB, no wheezes, ronchi or crackles
ABDOMEN: soft, NT, ND
EXTREMITIES: wwp, no lower extremity edema. L hand is swollen 
and
erythematous and hot, up to wrist. good range of motion, tender 
to palpation over thenar eminence. in tact radial pulse.
NEUROLOGIC: AAOx3, CN grossly intact, moving all 4 extremities
spontaneously and with purpose

 
Pertinent Results:
ADMISSION/IMPORTANT LABS
___ 12:02AM BLOOD ___ 
___ Plt ___
___ 12:02AM BLOOD ___ 
___ Im ___ 
___
___ 12:02AM BLOOD ___ 
___
___ 05:00AM BLOOD ___

DISCHARGE LABS
--------------
___ 05:00AM BLOOD ___ 
___
___ 05:00AM BLOOD ___ 
___ Plt ___

IMAGING
-------
___HEST W/O CONTRAST 
1.  Right eleventh posterior rib fracture, minimally displaced, 
and 
nondisplaced right posterior twelfth rib fracture.  No 
pneumothorax or 
hemothorax. 
2.  A 1.8 cm tubular structure in right upper lobe, which may 
represent an 
arteriovenous malformation. 
3.  Aneurysmal dilatation of the descending aorta measuring up 
to 3.5 cm.  
Partially visualized infrarenal abdominal aortic aneurysm 
measuring 3.0 x 2.5 
cm.  Further evaluation is recommended with nonemergent 
abdominal aorta 
ultrasound. 

___ Imaging CHEST (PA & LAT) 
Minimal left basal atelectasis.  If there is further concern for 
rib fracture, 
dedicated rib series is advised. 

___ Imaging HAND (PA,LAT & OBLIQUE) 
No fracture.  Degenerative disease at the base of thumb.  
Demineralized bones.
 
Brief Hospital Course:
==============
BRIEF SUMMARY:
==============
___ PMH BPH s/p TURP who presents after mechanical fall with L 
hand swelling and erythema concerning for cellulitis, also found 
to have rib fracture.

====================
TRANSITIONAL ISSUES:
====================
[] Antibiotics: Doxycycline (___) x 7 days (last dose on 
___
[] Follow up with hand surgery in 1 week
[] Consider additional work up of anemia as outpatient
[] Will establish with a new PCP in ___
[] "Aneurysmal dilatation of the descending aorta measuring up 
to 3.5 cm. Partially visualized infrarenal abdominal aortic 
aneurysm measuring 3.0 x 2.5 cm.  Further evaluation is 
recommended with nonemergent abdominal aorta ultrasound."
[] CONTACT: ___

==============
ACTIVE ISSUES:
==============
#L hand cellulitis:
Exam was notable for warmth, erythema and edema, consistent with 
cellulitis. He had intact circulation and was ___ on 
exam. No concerns for compartment syndrome or deeper involvement 
on exam. He was given IV cefazolin in the ED and started on PO 
doxycycline on the medicine floor. He was seen by ortho hand who 
felt there was no other signs of deeper infection or fracture 
and that the patient could follow up in hand clinic in 1 week. 
His pain and swelling improved considerably and he was 
discharged on 1 week of doxycycline.

#Rib fracture:
Reporting right lateral pain since fall, and hit a table on that 
side when he fell. Found to have rib fracture on CT chest in ED. 
Was taking in 1500cc on incentive spirometry and oxygenation was 
normal. Given Tylenol as needed.

#Mechanical fall:
Fell while crossing into a room that was on a lower level. He 
did not notice that there was a difference in level between the 
two floors. He is otherwise independent and has excellent 
functional status, so ___ evaluation was deferred.

#Anemia:
Hgb 12.4 and stable. Would consider additional workup as 
outpatient if not already complete.
 
Medications on Admission:
NONE
 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO BID 
Last dose ___. 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice a day 
Disp #*11 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Uncomplicated cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ because you had a skin 
infection.

WHILE YOU WERE HERE:
- You received antibiotics.
- Your symptoms improved.
- You were seen by the hand doctors who ___ did not need 
surgery.

WHEN YOU GO HOME:
- You should continue the antibiotics for 7 days.
- Your follow up appointments and medications are below.

It was a pleasure taking care of you and we wish you good 
health.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___